US08871792B2
Butyric acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino]-2-hydroxypropionyloxymethyl Ester
Chloromethyl butyrate (11.4 μL, 0.1 mmol) and NaI (13.6 mg, 0.1 mmol) were combined in acetone (0.7 mL, 10 mmol) and heated at 65° C. for 1 hour. The mixture was then cooled to room temperature. A mixture of (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid (16.0 mg, 30 μmol) dissolved in acetone (0.2 mL) and treated with Et3N (8.5 μL, 61 μmol) was added and the resulting mixture was stirred at room temperature for 25 minutes. The mixture was concentrated and the residue was dissolved in AcOH (2.0 mL), filtered and purified by reverse phase preparative HPLC. The desired fractions were combined and freeze dried to yield a yellowish solid. This solid was dissolved in AcOH (1.5 mL), filtered, and purified by reverse phase preparative HPLC. The desired fractions were combined and freeze dried to yield the title compound (5.7 mg, purity 100%) as a TFA salt white solid. MS m/z [M+H]+ calc'd for C31H28ClF2N3O2, 628.16. found 628.

reactant | Chloromethyl butyrate | 0.1 mmol, 11.4 μL | C(CCC)(=O)OCCl | C5H9ClO2
reactant | NaI | 0.1 mmol, 13.6 mg | [Na+].[I-]
reactant | (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid | 30 μmol, 16.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)O)F | C26H20ClF2N3O5
reactant | Et3N | 61 μmol, 8.5 μL | CCN(CC)CC | C6H15N
solvent | acetone | 0.2 mL | CC(=O)C | C3H6O
solvent | AcOH | 1.5 mL | CC(=O)O | C2H4O2
solvent | acetone | 10 mmol, 0.7 mL | CC(=O)C | C3H6O
product | Butyric acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino]-2-hydroxypropionyloxymethyl Ester | 5.7 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)OCOC(CCC)=O)O)F | C31H28ClF2N3O7
